US07026321B2
To a solution of [2-(4-fluorophenyl)-1,3-oxazolin-4-yl]methan-1-ol (500 mg, 2.5 mmol) in pyridine (30 ml) cooled to 0° under inert conditions was added triphenylphosphine (1.3 g, 5.0 mmol). Carbon tetrabromide (817 mg, 2.5 mmol) was added in 4 fractions (˜200 mg each). The reaction mixture was stirred at zero degrees until all starting material was consumed, as shown by TLC (1:1 EtOAc:Hexanes). Methanol (˜5 ml) was added to quench the reaction. The solution was evaporated under reduced pressure, and the residue was purified using column chromatography (1:1 EtOAc:Hexanes) to yield compound 4-(bromomethyl)-2-(4-fluorophenyl)-1,3-oxazoline (300 mg, HNMR).

reactant | [2-(4-fluorophenyl)-1,3-oxazolin-4-yl]methan-1-ol | 2.5 mmol, 500 mg | FC1=CC=C(C=C1)C=1OCC(N1)CO | C10H10FNO2
reactant | triphenylphosphine | 5.0 mmol, 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Carbon tetrabromide | 2.5 mmol, 817 mg | C(Br)(Br)(Br)Br | CBr4
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-(bromomethyl)-2-(4-fluorophenyl)-1,3-oxazoline | 300 mg | BrCC1N=C(OC1)C1=CC=C(C=C1)F | C10H9BrFNO
